US07018997B2
Step 4: Preparation of Preparation of 6-[acetoxy-(4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-8-yl)-methyl]-6-bromo-7oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl Ester;
4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-2-carbaldehyde (0.19 g, 0.887 mmol) in acetonitrile (14 ml) was added to MgBr2 (0.49 g, 2.66 mmol) under N2. After 25 minutes 6-Bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (0.342 g, 0.888 mmol.) in THF (14 ml) was added. After 15 minutes the reaction was cooled to −20° C. Ten minutes later added Et3N (3eq) and placed reaction in the dark. After 6.5 hours added Ac2O (0.42 ml, 4.45 mmol) and DMAP (0.011 g, 0.0900 mmol). Warmed to 0° C. and placed in freezer overnight. Reaction solution was concentrated and resulting residue was taken up in EtOAc. Washed with 5% citric acid(aq) and saturated NaHCO3(aq). Further washed with water and brine. Dried organics over sodium sulfate and filtered and concentrated. Purified with silica gel prep plates and 1:2 EtOAc/Hexane. Obtained the condensation product (yellow gum/solid). Yield: 0.31 g, 54% yield.

reactant | 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-2-carbaldehyde | 0.887 mmol, 0.19 g | N1=C(C=C2COC3=C(CN21)C=CC=C3)C=O | C12H10N2O2
reactant | MgBr2 | 2.66 mmol, 0.49 g | [Mg+2].[Br-].[Br-]
reactant | 6-Bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 0.888 mmol, 0.342 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C(C3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | Et3N | 3eq | CCN(CC)CC | C6H15N
reactant | Ac2O | 4.45 mmol, 0.42 ml | CC(=O)OC(=O)C | C4H6O3
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
solvent | THF | 14 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.0900 mmol, 0.011 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-[acetoxy-(4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-8-yl)-methyl]-6-bromo-7oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl Ester | 54% yield | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C(C3SC2)(Br)C(C=2C=CC3=C(CN4C(CO3)=CC=N4)C2)OC(C)=O)=O)C=C1 | C27H21BrN4O8S
